US05614544
A mixture of (E,E,E)-5-[4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]vinyl]phenyl]-2,4-pentadien-1-al (2.4 g), palladium-carbon (5%, 0.3 g) and ethyl acetate (100 ml) was subjected to catalytic hydrogenation at 1 atm and room temperature. After the catalyst was filtered off, the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel chromatography to yield 5-[4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]ethyl]phenyl]pentan-1-al (2.2 g, 92%) as an oily substance from the fraction eluted with ethyl acetate-hexane (1:1, v/v).

reactant | (E,E,E)-5-[4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]vinyl]phenyl]-2,4-pentadien-1-al | 2.4 g | O1C(=CC=C1)C=1OC(=C(N1)/C=C/C1=CC=C(C=C1)/C=C/C=C/C=O)C | C21H17NO3
catalyst | palladium-carbon | 0.3 g | [C].[Pd]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 5-[4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]ethyl]phenyl]pentan-1-al | 2.2 g, 92% | O1C(=CC=C1)C=1OC(=C(N1)CCC1=CC=C(C=C1)CCCCC=O)C | C21H23NO3
